US07414063B2
1-Chloro-isoquinoline-5-sulfonic acid (2-{[3-(2-benzyl-4-chloro-phenoxy)-propyl]-[bis-( 4-methoxy-phenyl)-methyl]-amino}-ethyl)-amide
Powdered 1-chloro-isoquinoline-5-sulfonyl chloride (124 mg, 0.473 mmol) is added to a stirred solution of N1-[3-(2-benzyl-4-chloro-phenoxy)-propyl]-N1-[bis-(4-methoxy-phenyl)-methyl]-ethane-1,2-diamine (258 mg, 0.473 mmol) and NEt3 (0.198 mL, 1.42 mmol) in anhydrous CH2Cl2 (5 mL) at ambient temperature under nitrogen. The resultant mixture is allowed to stir for 1 hour. The mixture is chromatographed on silica gel (gradient 0-4% EtOAc in CH2Cl2) to give 285 mg (0.370 mmol, 78% yield) of the title compound as foam. ESIMS: m/z 768 [(M−H)−, 35C, 35Cl], 770 [(M−H)−, 35Cl, 37Cl], 772 [(M−H)−, 37Cl, 37Cl. Analysis for C42H41Cl2N3O5S: calcd: C, 65.45; H, 5.36; N, 5.45; found: C, 65.43; H, 5.27; N, 5.42.

reactant | 1-chloro-isoquinoline-5-sulfonyl chloride | 0.473 mmol, 124 mg | ClC1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | C9H5Cl2NO2S
reactant | N1-[3-(2-benzyl-4-chloro-phenoxy)-propyl]-N1-[bis-(4-methoxy-phenyl)-methyl]-ethane-1,2-diamine | 0.473 mmol, 258 mg | C(C1=CC=CC=C1)C1=C(OCCCN(CCN)C(C2=CC=C(C=C2)OC)C2=CC=C(C=C2)OC)C=CC(=C1)Cl | C33H37ClN2O3
reactant | NEt3 | 1.42 mmol, 0.198 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-Chloro-isoquinoline-5-sulfonic acid (2-{[3-(2-benzyl-4-chloro-phenoxy)-propyl]-[bis-( 4-methoxy-phenyl)-methyl]-amino}-ethyl)-amide | 0.370 mmol, 285 mg, 78% yield | C(C1=CC=CC=C1)C1=C(OCCCN(CCNS(=O)(=O)C=2C=3C=CN=C(C3C=CC2)Cl)C(C2=CC=C(C=C2)OC)C2=CC=C(C=C2)OC)C=CC(=C1)Cl | C42H41Cl2N3O5S
